US04070475
3-Hydroxypyrazine-2-carboxylic acid is converted to the methyl ester and the ester is reduced with lithium aluminium hydride in tetrahydrofuran to give 3-hydroxy-3-hydroxymethylpyrazine. Treatment of 3-hydroxy-2-hydroxymethylpyrazine at room temperature with thionyl chloride gives 3-hydroxy-2-hydroxy-2chloromethylpyrazine and reacting this intermediate with cysteamine by the procedure of Example 62 gives 2-[(2-aminoethyl)thiomethyl]-3-hydroxypyrazine.

reactant | 3-Hydroxypyrazine-2-carboxylic acid | OC=1C(=NC=CN1)C(=O)O | C5H4N2O3
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-hydroxy-3-hydroxymethylpyrazine | OC1(CN=CC=N1)CO | C5H8N2O2
